US07893058B2
Step 3: 5-Bromo-2-[(4-methoxy-benzylamino)-methyl]-furan-3-carboxylic acid
A solution of 5-bromo-2-[(4-methoxy-benzylamino)-methyl]-furan-3-carboxylic acid methyl ester (643.8 mg, 1.82 mmol) and LiOH (115 mg, 2.74 mmol) in 1:1 THF:H2O (30 mL) is refluxed for 3 hours. The solvent is evaporated in vacuo to afford the title compound (620 mg, 99%) which is used in the next step without further purification.

reactant | 5-bromo-2-[(4-methoxy-benzylamino)-methyl]-furan-3-carboxylic acid methyl ester | 1.82 mmol, 643.8 mg | COC(=O)C1=C(OC(=C1)Br)CNCC1=CC=C(C=C1)OC | C15H16BrNO4
reactant | LiOH | 2.74 mmol, 115 mg | [Li+].[OH-]
reactant | THF | C1CCOC1 | C4H8O
solvent | H2O | 30 mL | O | H2O
product | 5-Bromo-2-[(4-methoxy-benzylamino)-methyl]-furan-3-carboxylic acid | 620 mg, 99% | BrC1=CC(=C(O1)CNCC1=CC=C(C=C1)OC)C(=O)O | C14H14BrNO4
